US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (50.0 mg, 0.173 mmol) and 4-[1-(4-bromo-phenyl)-piperidin-4-yl]-morpholine (65.0 mg, 0.200 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (20.0 mg, 0.0366 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow solid (0.044 g, 48%).

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.173 mmol, 50.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 4-[1-(4-bromo-phenyl)-piperidin-4-yl]-morpholine | 0.200 mmol, 65.0 mg | BrC1=CC=C(C=C1)N1CCC(CC1)N1CCOCC1 | C15H21BrN2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0366 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCC(CC2)N2CCOCC2 | C28H32N6O3S
